US06617339B1
3-(4-((3R)-3-t-Butyldimethylsilyloxy-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-hydroxymethyloxazolidin-2-one
5-Ethoxycarbonylamino-2-((3R)-3-t-butyldimethylsilyloxy-1-pyrrolidinyl)fluorobenzene (29.4 g, 0.077 M) was treated in essentially the same way as the appropriate intermediate of Example 86, except that the product was isolated by extraction into EtOAc, and crude product purified by dry column chromatography on silica, eluting with a gradient from 0-20% MeOH in dichloromethane. Appropriate fractions were combined to give the desired product (29.6 g).

reactant | 5-Ethoxycarbonylamino-2-((3R)-3-t-butyldimethylsilyloxy-1-pyrrolidinyl)fluorobenzene | 0.077 M, 29.4 g | C(C)OC(=O)NC=1C=CC(=C(C1)F)N1C[C@@H](CC1)O[Si](C)(C)C(C)(C)C | C19H31FN2O3Si
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-((3R)-3-t-Butyldimethylsilyloxy-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-hydroxymethyloxazolidin-2-one | 29.6 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F | C20H31FN2O4Si
